US06599902B2
Synthesis of 5-(2,5-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
5-[5-(2,5-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester (120 mg, 0.2 mmol) was coupled with (S)-2-pyrrolidin-1-ylmethyl-pyrrolidine (31 mg, 0.2 mmol) to give the titled compound.

reactant | 5-[5-(2,5-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | 0.2 mmol, 120 mg | O=C1N(C(CC1)=O)OC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC(=C1)Cl)Cl)=O)C | C27H21Cl2N3O7S
reactant | (S)-2-pyrrolidin-1-ylmethyl-pyrrolidine | 0.2 mmol, 31 mg | N1(CCCC1)C[C@H]1NCCC1 | C9H18N2
product | 5-(2,5-Dichloro-phenylmethanesulfonyl)-3-[1-[3,5-dimethyl-4-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-1H-pyrrol-2-yl]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | ClC1=C(C=C(C=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC(=C(C1C)C(=O)N1[C@@H](CCC1)CN1CCCC1)C | C32H34Cl2N4O4S
